US04213998
4-phenoxy-2-benzofurancarboxylic acid (9)
14.0 g of meta-phenoxyphenol was dissolved in 700 ml of 95% ethanol. 468 g of sodium hydroxide was then added rapidly. The resulting suspension was heated to 70°-80° C. Then 558.7 g of chloroform was added, at such a rate that gentle reflux was maintained; the addition required 10 hours. The mixture then was stirred for 2 hours at 75°-80° C., held at room temperature overnight and filtered. The solid product was dissolved in 1000 ml of water. The solution was acidified to pH=2 with concentrated hydrochloric acid, then was extracted with ether. The ether layer was dried (MgSO4) and concentrated. The residue was extracted with hot petroleum ether. The extract was dried (Na2SO4) and concentrated to give an oil, which was wet column chromatographed over silica gel, using first a 9/1 v/v mixture, then a 4/1 v/v mixture of petroleum ether and ether as eluent. The fourth fraction obtained, after removal of the solvents, was identified as 2-hydroxy-6-phenoxybenzaldehyde.

reactant | meta-phenoxyphenol | 14.0 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | sodium hydroxide | 468 g | [OH-].[Na+]
reactant | chloroform | 558.7 g | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 4-phenoxy-2-benzofurancarboxylic acid | O(C1=CC=CC=C1)C1=CC=CC2=C1C=C(O2)C(=O)O | C15H10O4
